US09302996B2
N,N-dimethylformamide (3.3 mL) was added to 2-(4-bromo-2-chlorophenyl)-4-(trifluoromethyl)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-imidazole (200 mg), ethyl 1-({[4-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-yl]oxy}-methyl)cyclobutanecarboxylate (164 mg) and palladium chloride (dppf) methylene chloride complex (18 mg), and after adding 2N aqueous sodium carbonate solution (0.66 mL) to the mixture, the atmosphere was replaced with nitrogen and the mixture was stirred at 65° C. for 3 hours. To the reaction mixture were added ethyl acetate and water, and the liquids were separated. The organic layer was separated, washed with a saturated brine, and the residue obtained by concentrating the mixture under reduced pressure was purified by silica gel column chromatography (n-hexane:ethyl acetate=100:0 to 80:20) to obtain ethyl 1-{[(5-{3-chloro-4-[4-(trifluoromethyl)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-imidazol-2-yl]phenyl}-4-methylpyridin-2-yl)oxy]methyl}-cyclobutanecarboxylate (214 mg).

reactant | N,N-dimethylformamide | 3.3 mL | CN(C=O)C | C3H7NO
reactant | 2-(4-bromo-2-chlorophenyl)-4-(trifluoromethyl)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-imidazole | 200 mg | BrC1=CC(=C(C=C1)C=1N(C=C(N1)C(F)(F)F)COCC[Si](C)(C)C)Cl | C16H19BrClF3N2OSi
reactant | ethyl 1-({[4-methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-yl]oxy}-methyl)cyclobutanecarboxylate | 164 mg | CC1=CC(=NC=C1B1OC(C(O1)(C)C)(C)C)OCC1(CCC1)C(=O)OCC | C20H30BNO5
reactant | sodium carbonate | 2N, 0.66 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | ethyl 1-{[(5-{3-chloro-4-[4-(trifluoromethyl)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-imidazol-2-yl]phenyl}-4-methylpyridin-2-yl)oxy]methyl}-cyclobutanecarboxylate | 214 mg | ClC=1C=C(C=CC1C=1N(C=C(N1)C(F)(F)F)COCC[Si](C)(C)C)C=1C(=CC(=NC1)OCC1(CCC1)C(=O)OCC)C | C30H37ClF3N3O4Si
